US04977272
0.35 mol diphosgene is added dropwise over 1 hour to a mixture of 0.28 mol of glycine n-propyl ester and 0.4 g activated charcoal in 400 mL dioxane under N2. The reaction mixture is then heated and stirred at reflux for 21/2 hours. The reaction mixture is then cooled, filtered, and concentrated to dryness by rotary evaporator, keeping exposure to moisture to a minimum. The crude product is re-dissolved in 100 mL THF, and the pH of the solution is adjusted to 5.5-6.0 by addition of pyridine. The product mixture is again filtered, and the product is purified by fractional distillation to give glycine n-propyl ester isocyanate.

reactant | diphosgene | 0.35 mol | O=C(OC(Cl)(Cl)Cl)Cl | C2Cl4O2
reactant | glycine n-propyl ester | 0.28 mol | C(CC)OC(CN)=O | C5H11NO2
reactant | charcoal | C | CH4
solvent | dioxane | 400 mL | O1CCOCC1 | C4H8O2
product | glycine n-propyl ester isocyanate | [N-]=C=O.C(CC)OC(CN)=O | InChI=1S/C5H11NO2.CNO/c1-2-3-8-5(7)4-6;2-1-3/h2-4,6H2,1H3;/q;-1
